US06133266
Methyl 2-(5-acetyl-2-benzyloxyphenyl)acetate (9.0 g), 18 ml of methyl orthoformate and 18 ml of ethylene glycol were dissolved in 300 ml of methylene chloride, 60 mg of p-toluenesulfonic acid monohydrate was added to the solution, and the mixture was heated under reflux for 12 hours. After cooling, 0.14 ml of triethylamine was added to the reaction solution and the mixture was stirred for 15 minutes. The reaction solution was partially purified by silica gel flash column chromatography (eluent: methylene chloride) and then further purified by silica gel medium pressure liquid column chromatography (eluent: hexane/diethyl ether=3/2) to give 9.2 g of methyl 2-[2-benzyloxy-5-(2-methyl-1,3-dioxolan-2-yl)phenyl]acetate in an oily form.

reactant | Methyl 2-(5-acetyl-2-benzyloxyphenyl)acetate | 9.0 g | C(C)(=O)C=1C=CC(=C(C1)CC(=O)OC)OCC1=CC=CC=C1 | C18H18O4
reactant | methyl orthoformate | 18 ml | C(OC)([O-])[O-]
reactant | ethylene glycol | 18 ml | C(CO)O | C2H6O2
reactant | p-toluenesulfonic acid monohydrate | 60 mg | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
solvent | methylene chloride | 300 ml | C(Cl)Cl | CH2Cl2
solvent | triethylamine | 0.14 ml | C(C)N(CC)CC | C6H15N
product | methyl 2-[2-benzyloxy-5-(2-methyl-1,3-dioxolan-2-yl)phenyl]acetate | 9.2 g | C(C1=CC=CC=C1)OC1=C(C=C(C=C1)C1(OCCO1)C)CC(=O)OC | C20H22O5
